US04131623
Production of 1-Phenylcyclopentane Carboxaldehyde
In starting the procedure, to a 250 ml (3-necked, round bottom) flask equipped with a nitrogen inlet tube, a rubber septum and a magnetic stirrer is added 100 ml tetrahydrofuran solution of 5.64 g (0.04 mole) of 2, benzyl-4,4,6-tetramethyl- 4,5-dihydro-1,3-oxazine. The mixture is cooled to -78° C and 0.044 mole of normal butyllithium disssolved in hexane is slowly added.

reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | normal butyllithium | 0.044 mole | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
product | 1-Phenylcyclopentane Carboxaldehyde | C1(=CC=CC=C1)C1(CCCC1)C=O | C12H14O
